US06613340B2
To a stirred and a cooled solution of lauryl alcohol (186.0 g, 1.0 mole) and triethyl amine (121.0 g, 1.2 mole) in dichloromethane (600 ml), p-toluene sulphonyl chloride (228.0 g, 1.2 mole) in dichloromethane (400 ml) was slowly added and the reaction was continued at room temperature for 10 hours. The reaction mixture was then washed with 20% sodium chloride solution (500 ml). The washed organic layer was dried over anhydrous sodium sulphate. Removal of solvent under vacuo resulted in colorless oil that solidified on keeping to yield lauryl tosylate. (309.0 g, 91%), m. p. 29° C. (literature m. p. 29° C.).

reactant | lauryl alcohol | 1.0 mole, 186.0 g | C(CCCCCCCCCCC)O | C12H26O
reactant | triethyl amine | 1.2 mole, 121.0 g | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulphonyl chloride | 1.2 mole, 228.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | lauryl tosylate | S(=O)(=O)(OCCCCCCCCCCCC)C1=CC=C(C)C=C1 | C19H32O3S
